US07465798B2
Intermediate 26: 1-(Benzyloxycarbonyl)indol-3-yl acetic acid
Indole-3-acetic acid (13 g, 74 mmol) was taken up in 130 mL anhydrous THF in a flame-dried, 2-necked 1 L round-bottomed flask, under an inert atmosphere, and cooled to −78° C. (dry ice/acetone bath). A 1.0 M THF solution of LHMDS (163 mL, 0.163 mol) was added via syringe over 30 minutes, and the reaction mixture allowed to stir for an additional 30 minutes at −78° C. once the addition was complete. Next, benzyl chloroformate (11.7 mL, 13.9 g, 81.6 mmol) was added dropwise via syringe. Stirring was then continued for 1 hour. To work up the reaction mixture, it was quenched with 2 M HCl, and partitioned between 2 M HCl and ethyl acetate. The aqueous layer was extracted with additional ethyl acetate, and the combined organic layers washed with brine, dried over anhydrous MgSO4, filtered, and evaporated to give a white solid with a pinkish tinge (22.49 g, 98% yield): 1H NMR (400 MHz, DMSO-d6) δ 3.71 (s, 2H) 5.47 (s, 2H) 7.27 (t, J=7.2 Hz, 1H) 7.32-7.47 (m, 4H) 7.54 (d, J=6.8 Hz, 2H) 7.58 (d, J=7.6 Hz, 1H) 7.68 (s, 1H) 8.08 (d, J=8.1 Hz, 1H) 12.43 (s, 1H); HRMS (ESI+) calcd for C18H16NO4 (MH+) 310.1074, found 310.1080.

reactant | Indole-3-acetic acid | 74 mmol, 13 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | LHMDS | 0.163 mol, 163 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | benzyl chloroformate | 81.6 mmol, 11.7 mL, 13.9 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | 1-(Benzyloxycarbonyl)indol-3-yl acetic acid | 98% yield | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC=CC=C12)CC(=O)O | C18H15NO4
